US08119641B2
3-(2-Nitro-benzoylamino)-1H-furo[3,2-c]pyrazole-5-carboxylic acid (1-methyl-1-phenyl-ethyl)-amide
3-(2-Amino-benzoylamino)-furo[3,2-c]pyrazole-5-carboxylic acid (11.6 g, 0.03668 mol) was dissolved in anhydrous dimethyl formamide (DMF, 70 mL). Diisopropylethylamine (DIEA, 31.4 mL, 0.1834 mol), cumylamine (7.43 mL, 0.055 mol) and 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU, 15.31 g, 0.0476 mol) were added respectively added. The solution was stirred at room temperature overnight. Then it was poured in a saturated solution of sodium bicarbonate (700 mL) and extracted with dichloromethane (2×250 ml). The organic layer was washed with water and dried over Na2SO4. The solution was then evaporated to dryness, taken up with toluene and evaporated to dryness, taken up with ethyl ether and filtered off. The solid was then purified by flash column chromatography on silica gel eluting with dichloromethane-methanol 46/4. The title compound was so obtained (3.87 g, 24.4% yield).

reactant | 3-(2-Amino-benzoylamino)-furo[3,2-c]pyrazole-5-carboxylic acid | 0.03668 mol, 11.6 g | NC1=C(C(=O)NC2=C3C(=NN2)C=C(O3)C(=O)O)C=CC=C1 | C13H10N4O4
reactant | Diisopropylethylamine | 0.1834 mol, 31.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cumylamine | 0.055 mol, 7.43 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.0476 mol, 15.31 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | sodium bicarbonate | 700 mL | C([O-])(O)=O.[Na+]
solvent | dimethyl formamide | 70 mL | CN(C=O)C | C3H7NO
product | 3-(2-Nitro-benzoylamino)-1H-furo[3,2-c]pyrazole-5-carboxylic acid (1-methyl-1-phenyl-ethyl)-amide | 24.4% yield | CC(C)(C1=CC=CC=C1)NC(=O)C1=CC=2NN=C(C2O1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C22H19N5O5
